US07018988B2
(2S,4EZ)-1-(4-cyanobenzoyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 6-quinolinamine the title compound was obtained in 52% purity by LC/MS. MS(ESI+): m/z=558.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-1-(4-cyanobenzoyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C(#N)C1=CC=C(C(=O)N2[C@@H](CC(C2)=NOCC2=CC(=C(C=C2)Cl)Cl)C(=O)NC=2C=C3C=CC=NC3=CC2)C=C1 | C29H21Cl2N5O3
